US07091214B2
Potassium thioacetate (1.70 g, 14.9 mmol) was added in one portion to a stirred solution of 7-bromo-1-(4-chlorobutyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline (5.37 g, 13.5 mmol) in DMF (65 mL), and the reaction was stirred at ambient temperature for 21 hours. The DMF was removed under reduced pressure, and the residue was partitioned between dichloromethane (300 mL) and water (150 mL). The organic layer was separated, washed with brine (120 mL), dried over magnesium sulfate, filtered, and concentrated to provide 6.09 g of thioacetic acid S-[4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]ester as a brown solid.

reactant | Potassium thioacetate | 14.9 mmol, 1.70 g | C(C)(=S)[O-].[K+]
reactant | 7-bromo-1-(4-chlorobutyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline | 13.5 mmol, 5.37 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCCl)COCC | C17H19BrClN3O
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
product | thioacetic acid S-[4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]ester | 6.09 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCSC(C)=O)COCC | C19H22BrN3O2S
